US05312916
Preparation of 6-(phthalimidomethyl)-6,11-dihydro-5H-dibenz[b,e]azepine (I)
A suspension of 110.0 kg of 6-phthalimidomethyl-5H-dibenz[b,e]azepine in 911.4 liters of dimethylformamide, 28.7 kg of formic acid and a suspension of 12.5 kg of 10% palladium charcoal in 25 liters of dimethylformamide is fed into a 1200 liter VA-propulsive jet loop reactor. The reaction mixture is heated to 70° C. and hydrogenated under 7 bar of absolute hydrogen pressure. After the catalyst has been filtered off and the reaction equipment and catalyst have been washed with 80 liters of dimethylformamide, 960 liters of dimethylformamide are distilled off from the combined filtrates at 70° to 80° C. After cooling to 50° C., 150 liters of acetone are added, then after further cooling to 15° C. the precipitated crystals are centrifuged off, washed with acetone and dried.

reactant | 6-phthalimidomethyl-5H-dibenz[b,e]azepine | 110.0 kg | C1(C=2C(C(N1CC1=C3C(=CC4=C(N1)C=CC=C4)C=CC=C3)=O)=CC=CC2)=O | C23H16N2O2
reactant | formic acid | 28.7 kg | C(=O)O | CH2O2
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 911.4 liters | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 liters | CN(C=O)C | C3H7NO
catalyst | palladium charcoal | 12.5 kg | [Pd] | Pd
product | 6-(phthalimidomethyl)-6,11-dihydro-5H-dibenz[b,e]azepine | C1(C=2C(C(N1CC1C3=C(CC4=C(N1)C=CC=C4)C=CC=C3)=O)=CC=CC2)=O | C23H18N2O2
